US08865736B2
N-(4-Phenoxy-phenyl)-acetamide
To an ice-cold solution of 4-phenoxy-phenylamine (1.0 g, 5.39 mmol) in 10 ml of DCM was added triethylamine (0.90 ml, 5.93 mmol) followed by acetyl chloride (0.50 g, 6.47 mmol). The reaction mixture was stirred at 25° C. for 2 h. After the completion of the reaction mixture (TLC monitoring), water was added extracted with DCM (3×50 mL). The combined organics was dried (Na2SO4), filtered and concentrated to get the desired product (1.20 g, crude yield).

reactant | 4-phenoxy-phenylamine | 5.39 mmol, 1.0 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)N | C12H11NO
reactant | triethylamine | 5.93 mmol, 0.90 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 6.47 mmol, 0.50 g | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | N-(4-Phenoxy-phenyl)-acetamide | 1.20 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC(C)=O | C14H13NO2
